US07723329B2
1-(4-Chloro-butoxy)-4-nitro-benzene
A mixture of para-nitrophenol (0.83 g, 6 mmoles), 1-bromo-4-chloro-butane (1.23 g, 7.2 mmoles), and K2CO3 (1.24 g, 9 mmoles) was stirred together in DMF at 80° C. for 1 hour. Reaction mixture was diluted with H2O, extracted with EtOAc, washed with water (2×), brine (1×), dried over Na2SO4, and concentrated under vacuum. The crude product was purified by HPLC using as eluent 30% EtOAc/hexane to afford the title compound as an off-white solid (1.28 g, 5.6 mmoles).

reactant | para-nitrophenol | 6 mmoles, 0.83 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | 1-bromo-4-chloro-butane | 7.2 mmoles, 1.23 g | BrCCCCCl | C4H8BrCl
reactant | K2CO3 | 9 mmoles, 1.24 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | 1-(4-Chloro-butoxy)-4-nitro-benzene | 5.6 mmoles, 1.28 g | ClCCCCOC1=CC=C(C=C1)[N+](=O)[O-] | C10H12ClNO3
